US04808595
2-Sulfamoyl-6-(propylsulfinylmethyl)furo[3,2-c]pyridine
To a solution of 2-sulfamoyl-6-(propylthiomethyl)furo[3,2-c]pyridine (913 mg, 3.19 mmol) in methanol (23 mL) and water (8 mL) was added sodium metaperiodate (906 mg, 4.24 mmol). This mixture was stirred for 4 hours as sodium iodate precipitated from the solution. This precipitate was filtered off and the methanol was evaporated. Sodium chloride was added to the residual aqueous solution and this was exhaustively extracted with ethyl acetate. The extract was dried over anhydrous sodium sulfate, filtered and evaporated. The residue was triturated with diethyl ether/methylene chloride to give 820 mg of product. This material was crystallized from a large volume of ethyl acetate to give pure product (470 mg, 49% yield), mp: 179°-180.5° C. (dec).

reactant | 2-sulfamoyl-6-(propylthiomethyl)furo[3,2-c]pyridine | 3.19 mmol, 913 mg | S(N)(=O)(=O)C1=CC=2C=NC(=CC2O1)CSCCC | C11H14N2O3S2
reactant | sodium metaperiodate | 4.24 mmol, 906 mg | I(=O)(=O)(=O)[O-].[Na+]
reactant | sodium iodate | I(=O)(=O)[O-].[Na+]
solvent | methanol | 23 mL | CO | CH4O
solvent | water | 8 mL | O | H2O
product | 2-Sulfamoyl-6-(propylsulfinylmethyl)furo[3,2-c]pyridine | 820 mg | S(N)(=O)(=O)C1=CC=2C=NC(=CC2O1)CS(=O)CCC | C11H14N2O4S2
